US05776932
1-(3,4-Dichlorobenzyl)-1H-indazole-3,5-diol
4.85 g 1-(3,4-dichlorobenzyl)-5-methoxy-1H-indazole-3-ol are heated in 30 ml acetic acid and 30 ml 50% hydrobromic acid for 4 hours under gentle reflux. After cooling, the mixture is stirred into 250 ml water, rendered alkaline with concentrated sodium hydroxide solution and extracted twice with 80 ml tert-butyl methyl ether. The aqueous phase is acidified with sulfuric acid and extracted by shaking three times with 200 ml tert-butyl methyl ether. The combined ether phases are dried over sodium sulfate and distilled to dryness under vacuum. The residue is washed with a small amount of tert-butyl methyl ether and dried.

reactant | 1-(3,4-dichlorobenzyl)-5-methoxy-1H-indazole-3-ol | 4.85 g | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)OC)O)C=CC1Cl | C15H12Cl2N2O2
reactant | hydrobromic acid | 30 ml | Br | BrH
reactant | water | 250 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 1-(3,4-Dichlorobenzyl)-1H-indazole-3,5-diol | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)O)O)C=CC1Cl | C14H10Cl2N2O2
